US07838521B2
H2. 2,2-Dibromo-1-(3,4-dimethoxyphenyl)ethene
According to the General Procedure F, carbon tetrabromide (4.00 g, 12.05 mmol), triphenylphosphine (6.30 g, 24.10 mmol) and 3,4-Dimethoxybenzaldehyde (2.00 g, 12.05 mmol) are converted to give after workup and chromatography (SiO2, CH2Cl2, Rf=0.48) the title compound (3.76 g, 11.68 mmol, 97%) as a yellow oil.

reactant | carbon tetrabromide | 12.05 mmol, 4.00 g | C(Br)(Br)(Br)Br | CBr4
reactant | triphenylphosphine | 24.10 mmol, 6.30 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 3,4-Dimethoxybenzaldehyde | 12.05 mmol, 2.00 g | COC=1C=C(C=O)C=CC1OC | C9H10O3
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 2,2-Dibromo-1-(3,4-dimethoxyphenyl)ethene | 11.68 mmol, 3.76 g, 97% | BrC(=CC1=CC(=C(C=C1)OC)OC)Br | C10H10Br2O2
